US07960545B2
Into a 2.0 Lt four-necked round-bottomed flask, equipped with a mechanical stirrer, reflux condenser and thermometer socket are charged the organic layer from the previous stage (Step 3) containing 4-Chloro-6,7-diacetoxy-quinazoline and 3-ethynylaniline (20 g). The reaction mass was slowly heated to reach reflux condition and maintained and reflux for 14 hours and the reaction was found to be over by HPLC. Then the reaction was cooled to 25-30° C. and filtered the mass washed the cake with chloroform and dried to get 60 g (79% by theory) of N-(3-ethynylphenyl)-6,7-diacetoxy-4-quinazolinamine hydrochloride as yellow solid.

reactant | 4-Chloro-6,7-diacetoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC(C)=O | C12H9ClN2O4
reactant | 3-ethynylaniline | 20 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
product | N-(3-ethynylphenyl)-6,7-diacetoxy-4-quinazolinamine hydrochloride | 60 g, 79% | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC(C)=O | InChI=1S/C20H15N3O4.ClH/c1-4-14-6-5-7-15(8-14)23-20-16-9-18(26-12(2)24)19(27-13(3)25)10-17(16)21-11-22-20;/h1,5-11H,2-3H3,(H,21,22,23);1H
